US04337208
A mixture of 50 grams (0.852 mole) of powdered nickel (particle size 3 to 7 microns), 248 grams (1.710 moles) of 2-ethylhexanoic acid (acid number, 387), a catalyst solution prepared by dissolving 10 grams of ammonium nitrate and 5 grams of ammonium acetate in 30 grams of water, and 170 grams of mineral spirits was agitated and heated to 85° C. The reaction mixture was maintained at 80°-85° C. for 6 hours while it was sparged with air at the rate of 30 liters per hour. It was then heated to 135° C. under vacuum to remove water from it. After the reaction product had been filtered and diluted with mineral spirits, there was obtained a solution of nickel 2-ethylhexanoate in mineral spirits that contained l0% by weight of nickel and had an acid number of 21.7.

reactant | nickel | 0.852 mole, 50 grams | [Ni] | Ni
reactant | 2-ethylhexanoic acid | 1.710 moles, 248 grams | C(C)C(C(=O)O)CCCC | C8H16O2
reactant | ammonium nitrate | 10 grams | [N+](=O)([O-])[O-].[NH4+]
reactant | ammonium acetate | 5 grams | C(C)(=O)[O-].[NH4+]
solvent | water | 30 grams | O | H2O
product | nickel 2-ethylhexanoate | C(C)C(C(=O)[O-])CCCC.[Ni+2].C(C)C(C(=O)[O-])CCCC | InChI=1S/2C8H16O2.Ni/c2*1-3-5-6-7(4-2)8(9)10;/h2*7H,3-6H2,1-2H3,(H,9,10);/q;;+2/p-2
